US04426381
7-Fluoro-8-(4-(2-hydroxyethyl)-1-piperazinyl)-5-oxo-1,2-dihydro-5H-thiazolo-(3,2-a)-quinoline-4-carboxylic acid
A mixture of 500 mg (1.67 mmol) of 8-chloro-7-fluoro-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid and 1.09 grams (8.34 mmol) of N-(beta-hydroxyethyl)-piperidine was suspended in 20 ml of pyridine and the mixture was heated to reflux for thirty two hours. When the reaction was completed, the mixture was cooled to a room temperature, crystals separated out therefrom were collected by filtration, successively washed with pyridine, ethanol and ether, and recrystallized from dimethyl formamide to give the title compound as pale yellow powders. Yield 426.6 mg (65 percent). Melting point 256° to 256.5° C. Elementary analysis calculated as C18H20FN3O4S: C 54.95, H 5.12, N 10.68; Found: C 54.52, H 5.14, N 10.73.

reactant | 8-chloro-7-fluoro-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid | 1.67 mmol, 500 mg | ClC1=C(C=C2C(C(=C3N(C2=C1)CCS3)C(=O)O)=O)F | C12H7ClFNO3S
reactant | N-(beta-hydroxyethyl)-piperidine | 8.34 mmol, 1.09 grams | OCCN1CCCCC1 | C7H15NO
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 7-Fluoro-8-(4-(2-hydroxyethyl)-1-piperazinyl)-5-oxo-1,2-dihydro-5H-thiazolo-(3,2-a)-quinoline-4-carboxylic acid | FC=1C=C2C(C(=C3N(C2=CC1N1CCN(CC1)CCO)CCS3)C(=O)O)=O | C18H20FN3O4S
